US04526897
3.7 g (0.05M) of methyl isothiocyanate in 10 ml of dimethoxyethane is dripped into 8.0 g (0.05M) of 2-amino-4,7-dimethylisoindoline in 50 ml of 1,2-dimethoxyethane. Conventional processing was conducted after 15 hours, yielding 7.1 g of 1-methyl-3-(4,7-dimethylisoindolin-2-yl)-thiourea.

reactant | methyl isothiocyanate | 0.05M, 3.7 g | CN=C=S | C2H3NS
reactant | 2-amino-4,7-dimethylisoindoline | 0.05M, 8.0 g | NN1CC2=C(C=CC(=C2C1)C)C | C10H14N2
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | 1-methyl-3-(4,7-dimethylisoindolin-2-yl)-thiourea | 7.1 g | CNC(=S)NN1CC2=C(C=CC(=C2C1)C)C | C12H17N3S
